US04920116
4-[(Ethylsulfonyl)amino]benzoic acid
To a solution of 16.5 g (0.1 mol) of ethyl 4-aminobenzoate and 16 g (0.2 mol) of pyridine in 200 mL of methylene chloride cooled to 0° C. add dropwise 13 g (0.1 mol) of ethanesulfonyl chloride. After the addition is complete stir the mixture at 20° C. for 4 hr. After this time extract the mixture with three 100 mL portions of 1N sodium hydroxide. Heat the basic extracts at reflux for 2 hr, cool to 0°-10° C. and carefully add 60 mL of concentrated hydrochloric acid. Collect the resulting precipitate to obtain the title compound.

reactant | ethyl 4-aminobenzoate | 0.1 mol, 16.5 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | pyridine | 0.2 mol, 16 g | N1=CC=CC=C1 | C5H5N
reactant | ethanesulfonyl chloride | 0.1 mol, 13 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-[(Ethylsulfonyl)amino]benzoic acid | C(C)S(=O)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H11NO4S
